US07781438B2
Preparation of (2-Chloro-1-hydroxy-7-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid ethyl ester
A solution of EtOAc (16.1 ml, 164.48 mmol) in THF (250 ml) is slowly added under an atmosphere of argon at −78° C. to a solution of lithium diisopropylamine (prepared from 23.3 ml of diisopropylamine (164.48 mmol) and 102.8 ml of 1.6 M n-BuLi in hexane (164.48 mmol) in THF (250 ml). After stirring at −78° C. for 30 minutes, a solution of 2-chloro-7-methoxy-3,4-dihydro-2H-naphthalen-1-one (31.5 g, 149.53 mmol) in THF (250 ml) is slowly added during 30 minutes. The reaction mixture is stirred at −78° C. for 1 h. TLC analysis indicates complete conversion of starting material. A sat. aqueous solution of NH4Cl (250 ml) is carefully added to the reaction mixture at −78° C. The mixture is warmed to RT. The organic layer is separated, diluted with EtOAc and washed with brine. After drying over Na2SO4, the solvent is removed. Purification by FCC (hexane/EtOAc 4:1) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.27 (t, J=9.4 Hz, 3H), 2.32-2.48 (m, 2H), 2.78-2.88 (m, 1H), 2.86-3.02 (m, 2H), 3.05-3.14 (m, 1H), 3.82 (s, 3H), 4.18 (q, J=9.4 Hz, 2H), 5.02-5.08 (m, 1H), 6.81-6.84 (m, 1H), 7.03 (d, J=10.5 Hz, 1H), 7.18-7.19 (m, 1H). ES+-MS: 281.3, 283.3 [M+H—H2O]+.

reactant | EtOAc | 164.48 mmol, 16.1 ml | CCOC(=O)C | C4H8O2
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | diisopropylamine | 164.48 mmol, 23.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 1.6 M, 102.8 ml | [Li]CCCC
reactant | hexane | 164.48 mmol | CCCCCC | C6H14
reactant | 2-chloro-7-methoxy-3,4-dihydro-2H-naphthalen-1-one | 149.53 mmol, 31.5 g | ClC1C(C2=CC(=CC=C2CC1)OC)=O | C11H11ClO2
reactant | NH4Cl | 250 ml | [NH4+].[Cl-]
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | (2-Chloro-1-hydroxy-7-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1(C(CCC2=CC=C(C=C12)OC)Cl)O)=O | C15H19ClO4
